US04321384
1,4,5,6,7,8-Hexahydro-2-methyl-5-oxo-7-(phenylmethyl)-4-[2-(trifluoromethyl)phenyl]-1,7-naphthyridine-3-carboxylic acid methyl ester
A mixture of 8.5 g. of 1-benzyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine, 4.75 g. of methyl-3-aminocrotonate (97%), 6.96 g. of o-trifluoromethylbenzaldehyde and 125 ml. of ethanol was refluxed for 2 hours. The mixture was filtered while hot and the filtrate was allowed to cool to room temperature. The solid was separated by filtration. Recrystallization from ethanol afforded the title compound, m.p. 225°-227° C.

reactant | 1-benzyl-3-oxo-5-hydroxy-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC(C=C(C1)O)=O | C12H13NO2
reactant | methyl-3-aminocrotonate | COC(\C=C(\C)/N)=O | C5H9NO2
reactant | o-trifluoromethylbenzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
solvent | ethanol | C(C)O | C2H6O
product | 1,4,5,6,7,8-Hexahydro-2-methyl-5-oxo-7-(phenylmethyl)-4-[2-(trifluoromethyl)phenyl]-1,7-naphthyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(NC=2CN(CC(C2C1C1=C(C=CC=C1)C(F)(F)F)=O)CC1=CC=CC=C1)C | C25H23F3N2O3
